US07087594B2
In 3.0 mL of ethyl acetate was dissolved 0.28 g of 1-{3-[2-(1-benzothiophen-6-yl)ethoxy]propyl}-3-azetidinol, and to the solution was added 0.35 mL of a 3.25 mol/L dried hydrogen chloride-ethyl acetate solution, after which the resulting mixture was stirred at room temperature for 1 hour. Then, the solvent was distilled off under reduced pressure to obtain 0.30 g of 1-{3-[2-(1-benzothiophen-6-yl)ethoxy]propyl}-3-azetidinol hydrochloride as a light-yellow oil.

reactant | 1-{3-[2-(1-benzothiophen-6-yl)ethoxy]propyl}-3-azetidinol | 0.28 g | S1C=CC2=C1C=C(C=C2)CCOCCCN2CC(C2)O | C16H21NO2S
reactant | hydrogen chloride-ethyl acetate | 3.25 mol/L | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 3.0 mL | C(C)(=O)OCC | C4H8O2
product | 1-{3-[2-(1-benzothiophen-6-yl)ethoxy]propyl}-3-azetidinol hydrochloride | 0.30 g | Cl.S1C=CC2=C1C=C(C=C2)CCOCCCN2CC(C2)O | InChI=1S/C16H21NO2S.ClH/c18-15-11-17(12-15)6-1-7-19-8-4-13-2-3-14-5-9-20-16(14)10-13;/h2-3,5,9-10,15,18H,1,4,6-8,11-12H2;1H
